US06762330B2
Synthesis of Diphenyl Sulfide
A 50 mL of reactor equipped with magnetic stir bar was charged with 252 mg (0.27 mmol) of {[(t-Bu)2P(OH)]2PdCl}2, 2.90 g (18.47 mmol) of bromobenzene, 1.98 g (18.0 mmol) of PhSH and 3.46 g (36.0 mmol) of NaO—tBu in 20.0 mL of toluene. The resulting mixture was refluxed for 15 h before the mixture was cooled to room temperature and quenched with 100 mL of H2O. The mixture was transferred to a separatory funnel, and extracted with EtOAc (2×200 mL). The layers were separated, and organic layer was washed with H2O (100 mL), brine (150 mL), and dried over mgSO4, filtered, and the solvents removed from the filtrate by rotary evaporation. The product was isolated by distillation. The final product was obtained as a colorless oil (2.24 g, 66% yield).

reactant | bromobenzene | 18.47 mmol, 2.90 g | BrC1=CC=CC=C1 | C6H5Br
reactant | PhSH | 18.0 mmol, 1.98 g | C1(=CC=CC=C1)S | C6H6S
reactant | NaO—tBu | 36.0 mmol, 3.46 g | O([Na])C(C)(C)C
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | Diphenyl Sulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
